US05824691
A mixture of methyl 3-bromoacetylamino-5-(pyrrol-1-yl)benzoate (0.5 g) and morpholine (0.28 ml) in dichloromethane (5 ml) and tetrahydrofuran (7 ml) was stirred for 17 hours at room temperature. The reaction mixture was poured into the mixture of ethyl acetate and water. The organic layer was successively washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with chloroform. The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-morpholinoacetylamino-5-(pyrrol-1-yl)benzoate (0.48 g).

reactant | methyl 3-bromoacetylamino-5-(pyrrol-1-yl)benzoate | 0.5 g | BrCC(=O)NC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C14H13BrN2O3
reactant | morpholine | 0.28 ml | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | methyl 3-morpholinoacetylamino-5-(pyrrol-1-yl)benzoate | 0.48 g | O1CCN(CC1)CC(=O)NC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C18H21N3O4
